US07071197B2
Cyclohexyl 2-fluorobenzyl ketone (Compound 1a)
To a mixture of 36 ml of 2-fluorobenzylzinc chloride (0.5 M sol. in tetrahydrofuran) and 0.008 g of dichlorobis(triphenylphosphine)palladium(II) stirred at 0° C. was added dropwise via a syringe 2.14 ml of cyclohexanecarbonyl chloride. Afterwards, the reaction mixture was stirred at r.t. for 4 h, quenched with an aqueous saturated solution of ammonium chloride (25 ml), extracted with 20 ml of EtOAc, which was dried (Na2SO4) and evaporated to dryness in vacuo affording 3.52 g of the title compound as a crude, which could be used in the following step without further purification.

reactant | 2-fluorobenzylzinc chloride | 0.5 M, 36 ml | [Cl-].FC1=C(C[Zn+])C=CC=C1
reactant | cyclohexanecarbonyl chloride | 2.14 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.008 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Cyclohexyl 2-fluorobenzyl ketone | 3.52 g | FC1=C(CC(=O)C2CCCCC2)C=CC=C1 | C14H17FO
